US08871753B2
Step A: 3-Bromo-5-[(tert-butoxycarbonyl)amino]benzoic acid
A solution of 3-amino-5-bromobenzoic acid (10 g, 46 mmol) in 1,4-dioxane (46 mL) and water (46 mL) was treated with triethylamine (10 mL, 69 mmol) followed by a solution of di-tert-butyldicarbonate (15 g, 69 mmol) in 1,4-dioxane (46 mL) at 0° C. The reaction mixture was stirred at 20° C. for 16 h, treated with additional triethylamine (3.2 mL, 23 mmol) and di-tert-butyldicarbonate (5.1 g, 23 mmol), and stirred for another 16 h. The reaction mixture was concentrated, diluted with ethyl acetate (200 mL), and washed with 1 N HCl (2×100 mL) and brine (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product as a crude tan solid. This material was stirred in boiling toluene (100 mL), cooled, filtered, washed with cold toluene, and dried to give the desired product (13.6 g, 93%) as an off-white solid. LCMS for C12H15BrNO4 (M+H)+: m/z=316.0, 318.0.

reactant | 3-amino-5-bromobenzoic acid | 46 mmol, 10 g | NC=1C=C(C(=O)O)C=C(C1)Br | C7H6BrNO2
reactant | triethylamine | 69 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 69 mmol, 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 23 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 23 mmol, 5.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 46 mL | O1CCOCC1 | C4H8O2
solvent | water | 46 mL | O | H2O
solvent | 1,4-dioxane | 46 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-5-[(tert-butoxycarbonyl)amino]benzoic acid | BrC=1C=C(C(=O)O)C=C(C1)NC(=O)OC(C)(C)C | C12H14BrNO4
